US04410536
4 g of 5-hydrazinobenzothiophene hydrochloride, suspended in 100 ml of isopropanol, are combined with 2.8 ml of 1-methyl-4-piperidone hydrochloride under N2. The solution is brought to the boil and 10 ml of isopropanol saturated with HCl re added whilst the solution is hot. After boiling the mixture of 1/2 hour, the solvent is distilled off, the residue is treated with ammonia and the precipitate is filtered off and recrystallised from methanol. 9-Methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole of melting point 189° C. is obtained.

reactant | 5-hydrazinobenzothiophene hydrochloride | 4 g | Cl.N(N)C=1C=CC2=C(C=CS2)C1
reactant | 1-methyl-4-piperidone hydrochloride | 2.8 ml | Cl.CN1CCC(CC1)=O
reactant | HCl | Cl | ClH
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 9-Methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | CN1CC2=C(NC3=CC=C4C(=C23)C=CS4)CC1 | C14H14N2S
